US04794109
(8a) 3-(tetrazol-1-yl)-propionic acid
4.5 g of tetrazole are stirred for 8 hours at 90° with 4.5 ml of acrylic acid and 15 drops of pyridine. After cooling, 150 ml of water are added to the reaction mixture and the whole is acidified with HCl (concentrated) and concentrated under reduced pressure in a rotary evaporator. The crystalline residue is digested three times with methyl ethyl ketone and the combined organic phases are dried over sodium sulphate. After concentration by evaporation, the crystalline residue is stirred with isopropanol/ether and filtered off.

reactant | tetrazole | 4.5 g | N1N=NN=C1 | CH2N4
reactant | acrylic acid | 4.5 ml | C(C=C)(=O)O | C3H4O2
reactant | HCl | Cl | ClH
catalyst | pyridine | 15 drops | N1=CC=CC=C1 | C5H5N
solvent | water | 150 ml | O | H2O
product | 3-(tetrazol-1-yl)-propionic acid | N1(N=NN=C1)CCC(=O)O | C4H6N4O2
